US03971786
A solution of 2-(4-aminobutyl)pyridine (2.9 g) and S-methyl-N-nitroisothiourea (2.9 g) in methanol (50 ml) was heated at 50°-65° for 4-5 hours. Concentration, followed by recrystallisation of the residue yielded N-[4-(2-pyridyl)butyl]-N'-nitroguanidine.

reactant | 2-(4-aminobutyl)pyridine | 2.9 g | NCCCCC1=NC=CC=C1 | C9H14N2
reactant | S-methyl-N-nitroisothiourea | 2.9 g | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
solvent | methanol | 50 ml | CO | CH4O
product | N-[4-(2-pyridyl)butyl]-N'-nitroguanidine | N1=C(C=CC=C1)CCCCNC(=N)N[N+](=O)[O-] | C10H15N5O2
